US05880130
Using an analogous reaction procedure to that described in Example 6, 6-chloro-4-(3'-chloro-4'-fluoroanilino)pyrimidine was reacted with 3-methoxyaniline. The reaction product was recrystallised from a mixture of methylene chloride, methanol and hexane, to give 4-(3'-chloro-4'-fluoroanilino)-6-(3'-methoxyanilino)pyrimidine in 16% yield, m.p. 214°-216° C.;

reactant | 6-chloro-4-(3'-chloro-4'-fluoroanilino)pyrimidine | ClC1=CC(=NC=N1)NC1=CC(=C(C=C1)F)Cl | C10H6Cl2FN3
reactant | 3-methoxyaniline | COC=1C=C(N)C=CC1 | C7H9NO
product | 4-(3'-chloro-4'-fluoroanilino)-6-(3'-methoxyanilino)pyrimidine | 16% yield | ClC=1C=C(NC2=NC=NC(=C2)NC2=CC(=CC=C2)OC)C=CC1F | C17H14ClFN4O
